US06884821B1
Using 2-chloro-4-cyclopentyloxybenzoic acid and 3-[3-([(tert-butoxycarbonyl)amino]methyl)-4-methoxyphenyl]-2-isopropoxypropanoate, 3-(3-[(2-chloro-4-cyclopentyloxybenzoyl)amino]methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid was obtained in the same method as in Example 38).

reactant | 2-chloro-4-cyclopentyloxybenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)OC1CCCC1 | C12H13ClO3
reactant | 3-[3-([(tert-butoxycarbonyl)amino]methyl)-4-methoxyphenyl]-2-isopropoxypropanoate | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OC)CC(C(=O)[O-])OC(C)C
product | 3-(3-[(2-chloro-4-cyclopentyloxybenzoyl)amino]methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid | ClC1=C(C(=O)NCC=2C=C(C=CC2OC)CC(C(=O)O)OC(C)C)C=CC(=C1)OC1CCCC1 | C26H32ClNO6
